Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ibuprofen / Bactrim
 
Attending: ___.
 
Chief Complaint:
Low back pain, weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo W with hx of back pain that started on ___ when she 
fell during pregnancy p/w increased LBP w/ UE and ___ weakness. 
After delivery she started to have shooting pain from the back 
to the the left leg and leg weakness; she was diagnosed with 
L4/L5 disk herniation and she underwent discectomy L4/L5 on 
___. She says that once in a while she still has 
shooting pain to the left leg and intermittent weakness. She 
underwent revision of the surgery a few months later.

She now reports that for the past 4 days she noticed that her 
left leg has been weaker on and off, having some trouble 
walking. She says that she woke up today with very strange 
numbness "all over her body", both legs and arms, 
circumferentially. Her back pain became so much worse that 
prevented her from walking. She reports one episode in which she 
tried to urinate but could not. She has been urinating fine in 
ER and also moved her bowels normally.

In the emergency department, initial vitals: 13:51 10 97.6 97 
114/74 16 100. Per neuro, her exam is notable for antalgic gait 
but full strengh throughout. Normal rectal tonus. No loss of 
sensation but pinprick elicited sensation of tingling. MRI 
showed Small disc bulge at L4-5, with left paracentral 
component. No signs of compression. Given 1 g tylenol. Admitted 
as patient felt unsafe ambulating.

On arrival to the floor, she endorses ___ numbness and severe 
___ weakness. She also endorses arm weakness that started today 
and increasing ___ weakness such that she is having a hard time 
ambulating. She notes that she had similar leg sx after her last 
discectomy such that she needed to use a walker. She denies 
bowel/blader incontinence f/c. She denies visual sx. She gets HA 
w/ her back pain. She has been taking tylenol 1g qid for the 
pain.
 
Past Medical History:
-Low back pain
-asthma

Past surgical history:
-s/p l4/l5 discectomy
-Endometriosis s/p laparoscopy
-s/p D&C and ablation
-s/p c/section
-s/p septoplasty
 
Social History:
___
Family History:
No h/o neurologic disease.
 
Physical Exam:
VITAL SIGNS: T 97 BP 110/80 HR 74 RR 20 O2 100% on RA
GENERAL: Pleasant, well appearing in NAD
HEENT: Normocephalic, atraumatic. No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No 
LAD.
CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, 
rubs or ___. JVP not elevated.
LUNGS: CTAB, good air movement biaterally.
ABDOMEN: NABS. Soft, NT, ND. No HSM
EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior 
tibial pulses.
SKIN: No rashes/lesions, ecchymoses.
NEURO: CN II-XII intact. Unable to lift L-leg off the bed. Able 
to raise R-leg approx 1 inch. Decreased subjective sensation in 
bilateral ___. Downgoing toes bilaterally. +1 patellar, brachial 
reflexes, Gait assessment deferred. ___ upper extremity 
strength.
PSYCH: Listens and responds to questions appropriately, pleasant
 
Pertinent Results:
___ 05:55AM BLOOD WBC-9.5 RBC-4.37 Hgb-13.3 Hct-38.0 MCV-87 
MCH-30.3 MCHC-34.9 RDW-12.8 Plt ___
___ 05:55AM BLOOD ___ PTT-28.4 ___
___ 05:55AM BLOOD Glucose-83 UreaN-13 Creat-0.8 Na-137 
K-4.4 Cl-104 HCO3-26 AnGap-11
___ 05:55AM BLOOD CK(CPK)-42
___ 05:55AM BLOOD TotProt-6.4 Calcium-9.6 Phos-4.7* Mg-2.2
___ 05:55AM BLOOD TSH-4.8*
___ 05:55AM BLOOD Free T4-1.3
___ 05:55AM BLOOD VitB12-664
___ 05:55AM BLOOD CRP-2.4
___ 05:55AM BLOOD PEP-NO SPECIFIC ABNORMALITIES SEEN
___ 06:15PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-NEG
___ 05:22AM URINE Hours-RANDOM Creat-128 TotProt-41 
Prot/Cr-0.3*
___ 05:22AM URINE U-PEP-AWAITING F IFE-PND
RPR negative

L Spine xray:
FINDINGS: There is a rather dramatic levoconcave curvature of 
the included
lower thoracic and lumbar spine. No secondary endplate changes 
are noted,
raising the suspicion this is likely simply positional in 
nature. Vertebral
bodies are intact. Disc spaces are maintained. Aside from 
curvature,
alignment otherwise is anatomic. The neural foramina are widely 
patent.
Transitional segmentation is noted at the lumbosacral junction. 
The
paraspinal soft tissues are unremarkable.
 
IMPRESSION: No traumatic injury or significant underlying 
degenerative joint
disease.

MRI L spine:
FINDINGS: From T11-12 to L2-3 no abnormalities are seen. At L3-4 
mild disc
bulging identified. No spinal stenosis or foraminal narrowing is 
identified.
 
At L4-5 there has been a previous hemilaminectomy. There is no 
evidence of
recurrent disc herniation seen.
 
At L5-S1 level degenerative disc disease and mild bulging seen 
without spinal
stenosis. An annular tear is seen on the right side. There is no 
evidence of
nerve root compression seen.
 
There is no evidence of epidural abscess or fluid collection 
identified in the
paraspinal region. A subtle area of artifact seen to the left of 
midline at
L4-5 level projected over the posterior aspect of the thecal sac 
appears
artifacts probably related to previous surgery.
 
IMPRESSION: Mild degenerative changes. No evidence of recurrent 
disc
herniation. No evidence of epidural abscess.

 
Brief Hospital Course:
Ms ___ was admitted to the medical service with low back pain 
and lower extremity weakness L>R as well as total body 
parasthesias.  On exam she had no evidence for cord compression, 
no sensory or motor deficits. She was seen by both the neurology 
and neurosurgical/spine teams.  She underwent an MRI of her L 
spine which did not reveal any cord or nerve root compression. 
She did not demonstrate any functional neurologic deficits on 
formal exam. Her laboratory work up revealed normal CBC and 
electrolytes, normal CK, normal renal function, normal UA, 
negative SPEP (UPEP still pending at this time), normal B12, 
high TSH but with normal free T4, negative RPR.  She was seen by 
physical therapy and was able to ambulate independently. She was 
discharged home day after admission with outpatient follow up.  
 
Medications on Admission:
-tylenol
-gabapentin 300mg X 1
-cyclobenzaprine 10mg x2
 
Discharge Medications:
1. Acetaminophen 500 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
2. Diazepam 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for back spasm: do not take before driving.
Disp:*30 Tablet(s)* Refills:*0*
3. Outpatient Physical Therapy
___ sessions a week x 10 weeks.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Weakness

 
Discharge Condition:
Good. Vital signs stable, ambulating independently

 
Discharge Instructions:
You were admitted with back pain and lower extremity weakness. 
You had an MRI of your lumbar spine which did not show any 
spinal cord or nerve root compression. You were seen by the 
neurology and spine teams who did not find an anatomical 
etiology for your symptoms.  Your B12 levels were normal.  Your 
thyroid levels were bordlerline, you should follow up with your 
PCP to have these rechecked, as well as to follow up on the 
results of some other blood work, notably protein 
electrophoresis.  Your neurontin was discontinued as their have 
been some reports of this medication causing the symptoms you 
experienced. You have been given a prescription for valium, a 
muscle relaxant, to be taken as needed for back spasm. This 
medication can cause drowsiness, to not take before driving. 
Please take all medications as prescribed. Please follow up with 
your primary care provider ___ 2 weeks.  
Call your doctor or return to the emergency room if you 
experience worsening pain, weakness, bowel incontinence or 
urinary retenion. 
 
Followup Instructions:
___